US07465825B2
Step 3: [[4′-(2-Benzyl-benzofuran-3-yl)biphenyl-4-sulfonyl]-(3-trifluoromethylbenzyl)-amino]acetic acid
Tert-Butyl-{[4′-(2-benzylbenzofuran-3-yl)biphenyl-4-sulfonyl]-(3-trifluoromethyl-benzyl)amino}acetate (90 mg) was dissolved in methylene chloride (4 mL). TFA (1 mL) was added and the reaction mixture was stirred at room temperature for 16 h, and then concentrated in vacuo. Purification by flash column chromatography (5% methanol in methylene chloride) afforded the title compound as an off white solid (45 mg).

reactant | Tert-Butyl-{[4′-(2-benzylbenzofuran-3-yl)biphenyl-4-sulfonyl]-(3-trifluoromethyl-benzyl)amino}acetate | 90 mg | C(C)(C)(C)OC(CN(CC1=CC(=CC=C1)C(F)(F)F)S(=O)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(OC2=C1C=CC=C2)CC2=CC=CC=C2)=O | C41H36F3NO5S
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | methylene chloride | 4 mL | C(Cl)Cl | CH2Cl2
product | [[4′-(2-Benzyl-benzofuran-3-yl)biphenyl-4-sulfonyl]-(3-trifluoromethylbenzyl)-amino]acetic acid | C(C1=CC=CC=C1)C=1OC2=C(C1C1=CC=C(C=C1)C1=CC=C(C=C1)S(=O)(=O)N(CC1=CC(=CC=C1)C(F)(F)F)CC(=O)O)C=CC=C2 | C37H28F3NO5S
